US07595320B2
4-Fluorobenzonitrile (12 g, 99 mmol, 1 eq.) and 100 mL of DMF are placed in a 250 mL round-bottomed flask. N-Methylpiperazine (16 mL, 1.6 eq., 123 mmol) is added to this solution. The orange solution is heated at a temperature in the region of 90° C. for 15 hours. The solvent is then evaporated to dryness and the residue is diluted with 500 mL of diethyl ether. The solution is washed with sodium hydrogen carbonate solution (2×100 mL) and then with saturated sodium chloride solution (100 mL). After evaporation, the 4-(4-methylpiperazin-1-yl)benzonitrile (orange solid, 10 g, 77%) is used without further purification in the following hydrolysis step. It is added at a temperature in the region of 0° C. to a solution of 98% sulfuric acid (25 mL) and 5 mL of water. The purple solution is then heated at a temperature in the region of 100° C. for 8 hours. The solution is cooled and then hydrolyzed by pouring onto ice. The pH is adjusted to 9-10 with sodium hydroxide pellets. The precipitate obtained is filtered off and washed thoroughly with water and then with tetrahydrofuran, which partially dissolves the product. The water is separated out by settling. After evaporating the organic phase to dryness, a solid is obtained, which is purified by chromatography on silica gel, eluting with a methanol/dichloromethane mixture (15/85 by volume). 4-(4-Methylpiperazin-1-yl)benzamide (8.7 g, 80%) is thus obtained in the form of a white solid, which is used directly in the following step.

reactant | 4-Fluorobenzonitrile | 99 mmol, 12 g, 1 eq. | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | N-Methylpiperazine | 123 mmol, 16 mL, 1.6 eq. | CN1CCNCC1 | C5H12N2
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(4-Methylpiperazin-1-yl)benzamide | 8.7 g, 80% | CN1CCN(CC1)C1=CC=C(C(=O)N)C=C1 | C12H17N3O
